US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-(3-methoxy-phenyl)-amino]-N,N-diethyl-acetamide
prepared by reaction of 2-bromoacetyl bromide with diethylamine, m-anisidine and 4-tert-butyl-benzenesulfonyl chloride

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | diethylamine | C(C)NCC | C4H11N
reactant | m-anisidine | COC1=CC(=CC=C1)N | C7H9NO
reactant | 4-tert-butyl-benzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 2-[(4-tert-Butyl-benzenesulfonyl)-(3-methoxy-phenyl)-amino]-N,N-diethyl-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CC)CC)C1=CC(=CC=C1)OC | C23H32N2O4S
